US07420001B2
To 100 mg (0.42 mmol) of 4-methoxy-3-methyl-5-(2,2,2-trifluoro-acetoxymethyl)-benzofuran-2-carboxylic acid was added 256 mg (1.5 eq) of (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester, BOP (185 mg, 1 eq), N,N-diisopropylethylamine (54 mg, 1 eq) and 4 mL of DMF. The mixture was stirred at room temperature for 48 h. Brine was added and the mixture was extracted with ethyl acetate. The combined organic solution was washed with 2N HCl and water. Removal of the solvent from the organic solution gave the crude product, which was purified by column chromatography on silica gel to give 89 mg of (S)-2-{4′-[(5-hydroxymethyl-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester as an off white solid.

reactant | 4-methoxy-3-methyl-5-(2,2,2-trifluoro-acetoxymethyl)-benzofuran-2-carboxylic acid | 0.42 mmol, 100 mg | COC1=C(C=CC2=C1C(=C(O2)C(=O)O)C)COC(C(F)(F)F)=O | C14H11F3O6
reactant | (S)-2-(4′-amino-biphenyl-4-sulfonylamino)-3-methyl-butyric acid tert-butyl ester | 256 mg, 1.5 eq | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C21H28N2O4S
reactant | BOP | 185 mg, 1 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 54 mg, 1 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | Brine | [Cl-].[Na+].O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (S)-2-{4′-[(5-hydroxymethyl-4-methoxy-3-methyl-benzofuran-2-carbonyl)-amino]-biphenyl-4-sulfonylamino}-3-methyl-butyric acid tert-butyl ester | 89 mg | C(C)(C)(C)OC([C@H](C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1C)C(=C(C=C2)CO)OC)=O | C33H38N2O8S
